Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
pain control
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ metastatic colon CA to lungs and bone and liver presents 
for pain control and cyberknife therapy of known spinal met to 
T8. Pt is s/p C3 D1 oxaliplatin and alimta on ___. Pt says he 
has not been feeling well since last ___ when started new 
chemotherapy regimen.  Prior to this he was biking 40-60 miles 
per day.  He c/o mid-back pain over past few weeks that has been 
worsening.  He reports increased pain with movement, denies 
radiation of the pain or any weakness or bowel/bladder 
incontinence. In general he feels fatigued.  His pain has been 
treated with escalating doses of oxycontin and oxycodone PRN.  
He felt the oxycontin at 60mg BID made him nauseous.  He 
self-decreased the dose and his nausea and prior vomiting has 
resolved.  He was taking Oxycontin 20mg BID and approximately 
40mg daily of fast-acting oxycontin.
.
On further ROS, he reports ___ pound weight loss over last 10 
days and 15-lb weight loss over last 2 months.  His appetite is 
poor.  He denies night sweats or fevers or chills.  He denies 
cough or shortness of breath.  He feels generalized weakness.  
He was constipated on oxycontin and with decreased meds reports 
loose stool and some sweats.  He reports burning with eating but 
denies abdominal pain.
 
Past Medical History:
- metastatic Colon CA: on ___ a right hepatic 
lobectomy and cholecystectomy were carried out. He also had a 
radical partial sternectomy with reconstruction. in ___ he was 
changed from ___ to Oxaliplatin and Avastin and Xeloda because of 
brachiocephalic clot from port.  Xeloda and Avastin were stopped 
___ thrombocytopenia. Because of the progressive disease he was 
started on Irinotecan and Cetuximab ___. He developed 
progressive back pain and completed palliative radiation to 
spine ___ he was restarted on chemotherapy.
- HTN
 
Social History:
___
___ History:
2 children are alive and well
Mother died of lung cancer age ___
Father died age ___ of CHF
No history of colon cancer
 
Physical Exam:
PE:
VS: 95.6  130/66  HR68  RR18   98%RA
GEN'L: cachectic, chronically ill-appearing but comfortable
HEENT: NC/AT, sclera anicteric, OP clear, MMM, alopecia
BACK: paraspinal tenderness mid-thoracic, minimal spinal 
tenderness, no CVAT
PUL: bibasilar soft coarse crackles, otherwise clear, no wheezes
___: NR/RR, +s1/s2, +s3, no murmurs/rubs
CHEST: s/p sternotomy with abdominal hernia, visible heart 
contractions
___: hernia, +BS, flat, NT
EXTREMS: varicose veins bilat ___, no edema, 2+radial, 2+DP 
pulses
NEURO: alert+oriented, moves all 4 extremities, sensation 
grossly intact

 
Pertinent Results:
134  95  18   
------------< 107 
4.7  33  0.7  
.  
Ca: 8.9
ALT: 141 AP: 159 Tbili: 0.6 Alb: 4.0 
AST: 93 LDH: 329 
___ AST/ALT ___
.
CEA: Pnd
.
1.7 D > 14.2 < 118 
----------------- 
       41.4  
Hct ___ ___
.
___: 310 
.
MRI L and T-spine:
1.  Significant interval progression of disease at the T8 
vertebral body 
level, with severe spinal canal and right neural foraminal 
stenosis.  There is no evidence of spinal cord edema.  
Metastatic involvement diffusely of the T3, T4, and T5 vertebral 
body levels is either stable, or minimally progressed since 
___. 
2.  Findings consistent with evolution of likely pathologic 
fracture at C7. 
3.  Progression of pulmonary metastases. 
4.  Essentially stable metastatic involvement of the lumbar 
spine, 
with particular attention to the posterior T12 vertebral body 
and right 
pedicle since ___. 
.
CT CHEST ___:
1.  Progression of osseous metastatic disease, with lesions at 
T7 and T12 
newly extending into the spinal canal.  Assessment of the canal 
and its 
contents is limited. 
2.  Probable subsegmental pulmonary embolus in right lower lobe. 
 
3.  Progression of pulmonary metastatic disease. 
4.  Decreased size and conspicuity of multiple hepatic lesions.  
 
5.  Slight increase in size of several retroperitoneal lymph 
nodes. 

 
Brief Hospital Course:
___ w/ metastatic colon CA to lungs and bone and liver presents 
for pain control and ?cyberknife therapy versus laminectomy of 
known spinal met to T8 p/w worsening thoracic back pain.
.
HOSPITAL COURSE BY PROBLEM:
.
# Back pain and known T8 met: Pt c/o nausea/vomiting on 
oxycontin. Pt had no neurologic symtpoms or defecits. Pain 
improved on MS contin, low-dose dexamethasone, and oxycodone 
PRN. Pt has had spine radiation in past.  He was seen by Dr. 
___ Dr. ___ do not think surgery will be 
beneficial (orthospine and neurosurgery). Cyberknife therapy 
appeared to be best option.  Patient's goal is to be able to 
bike again.  His pain was well-controlled on discharge and he 
will receive outpatient cyberknife therapy.  He was seen by ___ 
who did not think he need further evaluation. 
.
# Neutropenia: s/p C3 D1 oxaliplatin and alimta. Pt was afebrile 
and denied localizing infectious symptoms, no f/c. CXR clear. 
___ Nadir 300s, 3000 on discharge. He did not require any 
antibiotics.  
.
# C7 fracture: incidentally noted on MRI of thoracic spine. 
Cervical CT confirmed fracture.  Per orthospine, no 
interventions needed.  Hard collar if symptomatic. 
.
# Metastatic colon CA: to liver, bone, lungs. s/p radiation 
therapy, colonic resection, multiple chemotherapy regimens as in 
PMH, s/p sternal resection, s/p R hepatectomy. Pt is s/p C3 D1 
oxaliplatin and alimta on ___. Treatment regimen per Dr. 
___.  Cyberknife to T8 met as above.
.
# Elevated LFTs: likely in setting of chemotherapy. Also pt w/ 
known mets. Does not c/o abdominal pain.
.
# HTN: on lisinopril as outpt
.
# CODE: DNR/DNI - discussed in detail with pt and wife ___
.
# Contact: wife ___ ___

 
___ on Admission:
Oyxcontin 20mg BID
Oxycodone 10mg PRN
Lisinopril 10mg daily
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.
Disp:*10 Tablet(s)* Refills:*0*
3. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
4. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Dexamethasone 4 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).
Disp:*42 Tablet(s)* Refills:*2*
6. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical QDAILY () as needed 
for to back.
Disp:*30 Adhesive Patch, Medicated(s)* Refills:*2*
7. Oxycodone 5 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
8. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q12H (every 12 hours).
Disp:*120 Tablet Sustained Release(s)* Refills:*2*
9. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
11. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO three 
times a day as needed for cough.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Thoracic metastasis secondary to prostate cancer
SECONDARY:
Neutropenia, resolved
Prostate Cancer

 
Discharge Condition:
good, pain well controlled, afebrile, ANC 3000

 
Discharge Instructions:
You were admitted with back pain likely due to tumor spread to 
your thoracic spine.  You were seen by the neurosurgeons, 
orthopedic surgeons, and radiation oncology specialists.  They 
believe that radiation to the area is the best treatment option 
and will help with your pain.  You were started on MS ___ for 
pain control and will stop the oxycontin as you were having 
nausea with this medication.  Do NOT stop the MS ___ as this 
provides continuous pain control.  You were also started on 
dexamethasone (steroid) to help with your pain and swelling. 
This dose will be adjusted and potentially weened down through 
Dr. ___.
.
You had imaging of your spine that did not show compression of 
your spinal cord.  Cervical imagaging did show a C7 fracture 
that is stable.  You could use a cervical collar if you have any 
neck pain. 
.
Your immune system was weak secondary to the chemotherapy but 
your blood counts have normalized.  You are no longer at 
increased risk of infection.  Please follow-up your counts with 
Dr. ___.
.
Please contact your physician immediately if you have any new 
pain, weakness, numbness or tingling, persistent fevers, or 
other concerning symptoms.
 
Followup Instructions:
___